US08067445B2
Step 5: [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-hydroxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester
[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester (0.580 g, 0.96 mmol) in EtOAc was treated with 10% palladium on carbon (catalytic) and stirred under a balloon of H2 overnight. Analytical tlc indicated that some starting material was still present, so fresh palladium on carbon was added, and the reaction was stirred under a balloon of H2 for an additional 24 hours. Once no starting material was seen by analytical tlc, the mixture was filtered over Celite, and the filtrate was concentrated and purified by silica gel chromatography to give the title compound. M+H is 515.

reactant | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | 0.96 mmol, 0.580 g | C(C)OC(CC=1C=C(C(=CC1)OCC1=CC=CC=C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C35H35F3N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-hydroxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)O)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C28H29F3N2O4
